US09388161B2
Triisopropylsilyl chloride (166 mL, 961.5 mmol) was slowly added to a mixture of 3,4-difluorophenol (125 g, 961.5 mmol) and imidazole (65.4 g, 961.5 mmol) in N,N-dimethylformamide (500 mL), and the resulting solution stirred overnight at room temperature. The reaction mixture was diluted with water (1500 mL) and extracted with dichloromethane (3×300 mL). The combined organic layers washed with water (3×200 mL) and brine (2×200 mL), dried over anhydrous sodium sulfate, filtered, and concentrated under vacuum. The residue was purified via column chromatography on silica gel (eluting with petroleum ether) to afford (3,4-difluorophenoxy)triisopropylsilane (220 g, 80%) as a colorless oil.

reactant | Triisopropylsilyl chloride | 961.5 mmol, 166 mL | C(C)(C)[Si](C(C)C)(C(C)C)Cl | C9H21ClSi
reactant | 3,4-difluorophenol | 961.5 mmol, 125 g | FC=1C=C(C=CC1F)O | C6H4F2O
reactant | imidazole | 961.5 mmol, 65.4 g | N1C=NC=C1 | C3H4N2
solvent | N,N-dimethylformamide | 500 mL | CN(C=O)C | C3H7NO
solvent | water | 1500 mL | O | H2O
product | (3,4-difluorophenoxy)triisopropylsilane | 220 g, 80% | FC=1C=C(O[Si](C(C)C)(C(C)C)C(C)C)C=CC1F | C15H24F2OSi
